US05739132
Lithium bis(trimethylsilyl)amide prepared from 1.78 g of 1,1,1,3,3,3-hexamethylsilazane and n-butyl lithium (6.9 ml of 1.6M hexane solution), dissolved in 50 ml of tetrahydrofuran was cooled to -40° C., and 3.30 g of 2-(1,3-isoindolinedion-2-yl)-5-(2-methylpropionyl)indane dissolved in 50 ml of tetrahydrofuran was added dropwise thereto over 15 minutes. The mixture was stirred at 0° C. for 20 minutes and cooled to -30° C. To the mixture was added dropwise 1.68 g of methyl bromoacetate dissolved in 10 ml of tetrahydrofuran, and the mixture was stirred at room temperature for 2.5 hours. To the reaction mixture was added a saturated ammonium chloride solution, the mixture was extracted with ethyl acetate, the extract was dried, and then the solvent was removed. The residue was purified by silica gel column chromatography (eluted by n-hexane:ethyl acetate =4:1). The resulting crystals were recrystallized from ethyl acetate-n-hexane to obtain 2.06 g of 2-(1,3-isoindolinedion-2-yl)-5-(2,2-dimethyl-3-methoxycarbonyl-propionyl)indane.

reactant | Lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | n-butyl lithium | 1.6M, 6.9 ml | C(CCC)[Li]
reactant | 2-(1,3-isoindolinedion-2-yl)-5-(2-methylpropionyl)indane | 3.30 g | C1(N(C(C2=CC=CC=C12)=O)C1CC2=CC=C(C=C2C1)C(C(C)C)=O)=O | C21H19NO3
reactant | methyl bromoacetate | 1.68 g | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(1,3-isoindolinedion-2-yl)-5-(2,2-dimethyl-3-methoxycarbonyl-propionyl)indane | 2.06 g | C1(N(C(C2=CC=CC=C12)=O)C1CC2=CC=C(C=C2C1)C(C(CC(=O)OC)(C)C)=O)=O | C24H23NO5
